US07553854B2
Step 1. Synthesis of 2-(methylthio)benzo[d]oxazol-6-ol
To a solution of the 2-mercaptobenzo[d]oxazol-6-ol (1.55 g, 9.28 mmol, 1.0 eq) in 20 mL of methylene chloride was added triethylamine (1.87 g, 18.56 mmol, 2.0 eq) and methyl iodide (1.77 g, 13.92 mmol, 1.5 eq) at room temperature. The reaction mixture was stirred at rt for 3 hours. The mixture was diluted with 100 mL of methylene chloride. The resulting mixture was washed with water (10 mL), brine (10 mL), then dried over MgSO4, filtered, and evaporated under reduced pressure to give crude product, which was purified by silica gel column eluted with ethyl acetate and hexane to give the titled compound. MH+=182.

reactant | 2-mercaptobenzo[d]oxazol-6-ol | 9.28 mmol, 1.55 g, 1.0 eq | SC=1OC2=C(N1)C=CC(=C2)O | C7H5NO2S
reactant | triethylamine | 18.56 mmol, 1.87 g, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 13.92 mmol, 1.77 g, 1.5 eq | CI | CH3I
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(methylthio)benzo[d]oxazol-6-ol | CSC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2S
